US04240820
After adding 29.4 g (0.21 mole) of benzoyl chloride, a mixture of 36 g (0.2 mole) of 2-amino-3-cyano-4-tert.-butyl-thiophene and 200 ml of toluene was boiled until the evolution of hydrogen chloride had ended (4 hours). Thereafter, the reaction mixture was filtered and the filtrate was concentrated on a rotary evaporator. The residue was recrystallized from methanol. 46.4 g of 2-benzoylamino-3-cyano-4-tert.-butyl-thiophene of melting point 130° C. were obtained in this manner.

reactant | benzoyl chloride | 0.21 mole, 29.4 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 2-amino-3-cyano-4-tert.-butyl-thiophene | 0.2 mole, 36 g | NC=1SC=C(C1C#N)C(C)(C)C | C9H12N2S
reactant | hydrogen chloride | Cl | ClH
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 2-benzoylamino-3-cyano-4-tert.-butyl-thiophene | 46.4 g | C(C1=CC=CC=C1)(=O)NC=1SC=C(C1C#N)C(C)(C)C | C16H16N2OS
